US07589095B2
To a stirred suspension of potassium carbonate (596 mg) in acetone (7 mL), was added 3-hydroxy-1-(3-trifluoromethylphenyl)-hex-2-en-1-one (190 mg) followed by iodomethane (0.45 mL). The mixture was heated at reflux for 6 h, cooled to room temperature, and the solvent evaporated at reduced pressure. The resulting oil was dissolved in ethyl acetate (20 mL), washed with water (3×20 mL), dried over sodium sulphate and evaporated at reduced pressure to give the crude product as an oil. Flash silica chromatography afforded 2-methyl-1-(3-trifluoromethylphenyl)-hexane-1,3-dione as an oil (102 mg).

reactant | potassium carbonate | 596 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-1-(3-trifluoromethylphenyl)-hex-2-en-1-one | 190 mg | OC(=CC(=O)C1=CC(=CC=C1)C(F)(F)F)CCC | C13H13F3O2
reactant | iodomethane | 0.45 mL | IC | CH3I
solvent | acetone | 7 mL | CC(=O)C | C3H6O
product | 2-methyl-1-(3-trifluoromethylphenyl)-hexane-1,3-dione | 102 mg | CC(C(=O)C1=CC(=CC=C1)C(F)(F)F)C(CCC)=O | C14H15F3O2
